US08309725B2
Preparation of 3-{(4aRS,8SR,8aRS)-1-[2-(3,4-dichlorophenyl)acetyl]-8-(pyrrolidin-1-yl)-perhydroquinoxalin-4-yl}-3-oxopropionic acid
Under N2, 2-(3,4-dichlorophenyl)-1-[(4aRS,8SR,8aRS)-8-(pyrrolidin-1-yl)-perhydroquinoxalin-1-yl]-ethan-1-one (103 mg, 0.26 mmol) was dissolved in absolute CH2Cl2 (13 ml) and malonic acid monomethyl ester chloride (42 mg, 0.31 mmol) was added dropwise. The mixture was stirred at room temperature overnight and then evaporated in vacuo. The residue was taken up in 20 ml and 2 N NaOH (2 ml) was added. The solution was stirred at room temperature overnight. Thereafter, the mixture was evaporated in vacuo and the residue was purified by flash chromatography (Ø 2 cm, CH2Cl2/MeOH/NH3 8:2:0.1, l=15 cm, V=5 ml). The crude product was taken up in CH2Cl2 again, the mixture was filtered with a glass filter crucible G4 and Celite® (kieselguhr from CELITE Corp., Lompoc, USA) and the filtrate was evaporated in vacuo. A colorless solid was obtained.

reactant | 2-(3,4-dichlorophenyl)-1-[(4aRS,8SR,8aRS)-8-(pyrrolidin-1-yl)-perhydroquinoxalin-1-yl]-ethan-1-one | 0.26 mmol, 103 mg | ClC=1C=C(C=CC1Cl)CC(=O)N1CCNC2CCCC(C12)N1CCCC1 | C20H27Cl2N3O
reactant | malonic acid monomethyl ester chloride | 0.31 mmol, 42 mg | [Cl-].COC(CC(=O)O)=O
solvent | CH2Cl2 | 13 ml | C(Cl)Cl | CH2Cl2
product | 3-{(4aRS,8SR,8aRS)-1-[2-(3,4-dichlorophenyl)acetyl]-8-(pyrrolidin-1-yl)-perhydroquinoxalin-4-yl}-3-oxopropionic acid | ClC=1C=C(C=CC1Cl)CC(=O)N1CCN(C2CCCC(C12)N1CCCC1)C(CC(=O)O)=O | C23H29Cl2N3O4
